US06127391
(2-tert-Butoxycarbonylamino-2-methylpropoxy)acetic acid (0.22 g; 0.89 mmol) was dissolved in methylene chloride (10 mL). 1-Hydroxy-7-azabenzotriazole (0.13 g; 0.98 mmol) and N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (0.20 g; 1.02 mmol) were added and the reaction mixture was stirred for 15 min at room temperature. (2R)-N-((1R)-2-(4-Fluorophenyl)-1-(methylcarbamoyl)ethyl)-N-methyl-2-methylamino-3-(2-naphthyl)propionamide (0.38 g; 0.89 mmol) and diisopropylethylamine (0.17 mL; 0.98 mmol) were added and the reaction mixture was stirred for 12 hours at room temperature. Methylene chloride (50 mL) was added and the reaction mixture was washed with water (50 mL), an aqueous solution of sodium hydrogen carbonate/sodium carbonate (pH 9; 50 mL), an aqueous solution of sodium hydrogen sulfate (10%; 50 mL) and water (50 mL) and dried (magnesium sulfate). The solvent was removed in vacuo to afford 0.53 g of (2-((((1R)-1-(((1R)-2-(4-fluorophenyl)-1-methylcarbamoylethyl)-methylcarbamoyl)-2-(2-naphthyl)ethyl)methylcarbamoyl)-methoxy)-1,1-dimethylethyl)carbamic acid tert-butylester.

reactant | (2-tert-Butoxycarbonylamino-2-methylpropoxy)acetic acid | 0.89 mmol, 0.22 g | C(C)(C)(C)OC(=O)NC(COCC(=O)O)(C)C | C11H21NO5
reactant | 1-Hydroxy-7-azabenzotriazole | 0.98 mmol, 0.13 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 1.02 mmol, 0.20 g | Cl.CN(CCCN=C=NCC)C
reactant | (2R)-N-((1R)-2-(4-Fluorophenyl)-1-(methylcarbamoyl)ethyl)-N-methyl-2-methylamino-3-(2-naphthyl)propionamide | 0.89 mmol, 0.38 g | FC1=CC=C(C=C1)C[C@H](C(NC)=O)N(C([C@@H](CC1=CC2=CC=CC=C2C=C1)NC)=O)C | C25H28FN3O2
reactant | diisopropylethylamine | 0.98 mmol, 0.17 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | (2-((((1R)-1-(((1R)-2-(4-fluorophenyl)-1-methylcarbamoylethyl)-methylcarbamoyl)-2-(2-naphthyl)ethyl)methylcarbamoyl)-methoxy)-1,1-dimethylethyl)carbamic acid tert-butylester | 0.53 g | C(C)(C)(C)OC(NC(COCC(N(C)[C@H](CC1=CC2=CC=CC=C2C=C1)C(N(C)[C@H](CC1=CC=C(C=C1)F)C(NC)=O)=O)=O)(C)C)=O | C36H47FN4O6
